US04060526
Preparation of N-(2-[2-(1-phenyl-4-piperazinyl)ethylamino]benzoyl) morpholine hydrochloride. (763-431)
o-Aminobenzoylmorpholine (9 g), 14 g phenylpiperazinoethyl chloride hydrochloride, 12 g sodium acetate, and 50 ml water were refluxed 24 hours. The reaction was cooled to 30°, 100 ml water and 100 ml NH4OH added and the liquid decanted. The solid was stirred with 125 ml hot 60% propanol and filtered. The solid was dissolved in 1 liter of ether and 120 ml methanol and a solution of HCl gas in ether added to give 6.1 g, m.143-5°.

reactant | o-Aminobenzoylmorpholine | 9 g | NC1CN(CCO1)C(C1=CC=CC=C1)=O | C11H14N2O2
reactant | phenylpiperazinoethyl chloride hydrochloride | 14 g | Cl.C1(=CC=CC=C1)C(CCl)N1CCNCC1
reactant | sodium acetate | 12 g | C(C)(=O)[O-].[Na+]
reactant | NH4OH | 100 ml | [NH4+].[OH-]
solvent | water | 100 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | N-(2-[2-(1-phenyl-4-piperazinyl)ethylamino]benzoyl) morpholine hydrochloride | Cl.C1(=CC=CC=C1)N1CCN(CC1)CCNC1=C(C(=O)N2CCOCC2)C=CC=C1 | InChI=1S/C23H30N4O2.ClH/c28-23(27-16-18-29-19-17-27)21-8-4-5-9-22(21)24-10-11-25-12-14-26(15-13-25)20-6-2-1-3-7-20;/h1-9,24H,10-19H2;1H
